US06153608
5,7-Dimethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride
Using 0.77 g of 5,7-dimethyl-hexahydro-1H-1,4-diazepine and 0.48 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.50 g of the objective compound (white crystals).

reactant | 5,7-dimethyl-hexahydro-1H-1,4-diazepine | 0.77 g | CC1NCCNC(C1)C | C7H16N2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.48 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | 5,7-Dimethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride | 0.50 g | Cl.CC1NCCN(C(C1)C)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C17H23N3O2S.ClH/c1-12-10-18-11-15-5-4-6-16(17(12)15)23(21,22)20-8-7-19-13(2)9-14(20)3;/h4-6,10-11,13-14,19H,7-9H2,1-3H3;1H
